.include 3_NOR.sub
.include NOT.sub

.subckt 3_OR x y z out vdd gnd l=0.09u w_n=0.9u w_p=1.8u

xnor3 x y z nor_out vdd gnd 3_NOR lambda={l} width_N={w_n} width_P={w_p}
xinv nor_out out vdd gnd NOT lambda={l} width_N={w_n} width_P={w_p}

.ends 3_OR